US08168634B2
2-Iodo-4-(1H-1,2,4-triazol-1-yl)aniline
To a stirred solution of 1-(4-aminophenyl)-1,2,4-triazole (1.0 g, 6.25 mmol) in MeOH (10 mL) and water (10 mL) was added CaCO3 (1.2 g, 12.0 mmol), followed by a solution of iodine monochloride (1.2 g, 7.38 mmol) in MeOH (10 mL). The reaction mixture was stirred at r.t. for 1.5 h, and then partitioned between EtOAc (100 mL) and aqueous sat. Na2S2O3 (100 mL). The organic fraction was separated, washed with aqueous sat. Na2S2O3 (100 mL), then water (100 mL), brine (50 mL), dried (Na2SO4), filtered and concentrated in vacuo. Purification by column chromatography (SiO2, 0-100% EtOAc/hexanes) gave the title compound (1.2 g, 67%). LCMS (ES+) 286.9 (M+H)+, RT 2.78 minutes (Method 4).

reactant | 1-(4-aminophenyl)-1,2,4-triazole | 6.25 mmol, 1.0 g | NC1=CC=C(C=C1)N1N=CN=C1 | C8H8N4
reactant | CaCO3 | 12.0 mmol, 1.2 g | C(=O)([O-])[O-].[Ca+2]
reactant | iodine monochloride | 7.38 mmol, 1.2 g | ICl | ClI
solvent | MeOH | 10 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | 2-Iodo-4-(1H-1,2,4-triazol-1-yl)aniline | 1.2 g, 67% | IC1=C(N)C=CC(=C1)N1N=CN=C1 | C8H7IN4
